US06677347B2
1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.00 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (0.84 mL, 6.00 mmol) and methanesulfonyl chloride (232 μL, 3.00 mmol) and the reaction was allowed to warm to room temperature overnight. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (30 mL). The organic layer was separated and washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure to give a yellow solid. The solid was triturated with Et2O and a few drops of MeOH. The resulting white powder was isolated by filtration and further purified by column chromatography (SiO2, 3% MeOH/CHCl3 saturated with aqueous NH4OH) to give 389 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide as a white powder. m.p. 151.0-153.0° C.;

reactant | 1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 3.00 mmol, 1.00 g | NCCOCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C17H27N5O2
reactant | Et3N | 6.00 mmol, 0.84 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.00 mmol, 232 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide | 389 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CCOCCNS(=O)(=O)C)CCOC | C18H29N5O4S
